US05696110
Step D: 1,2-Dihydro-1-methyl-5-(piperidin-1-yl)-3H-1,4-benzodiazepin-2-one
Piperidine (1.34 g) was added to a solution of crude 5-chloro-1,2-dihydro-1-methyl-3H-1,4-benzodiazepin-2-one hydrochloride (0.005 mol) in dichloromethane (50 ml) cooled in ice. After warming to room temperature, sodium bicarbonate solution (20 ml) was added. The organic phase was separated, dried (Na2SO4) and evaporated to give an orange oil which was purified by column chromatography on silica with CH2Cl2 →CH2Cl2 :MeOH 95:5 as eluant to afford 0.62 g of product as an orange gum 1H NMR (250 MHz, CDCl3) δ: 1.5-1.8 (6H, m), 3.15-3.4 (4H, m), 3.4 (3H, s), 3.5 and 4.25 (2H, ABq, J=11Hz), 7.15-7.6 (5H, m).

reactant | Piperidine | 1.34 g | N1CCCCC1 | C5H11N
reactant | 5-chloro-1,2-dihydro-1-methyl-3H-1,4-benzodiazepin-2-one hydrochloride | 0.005 mol | Cl.ClC1=NCC(N(C2=C1C=CC=C2)C)=O
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1,2-Dihydro-1-methyl-5-(piperidin-1-yl)-3H-1,4-benzodiazepin-2-one | 0.62 g | CN1C(CN=C(C2=C1C=CC=C2)N2CCCCC2)=O | C15H19N3O
